US04863947
To 3.5 ml of diisopropylamine dissolved in 20 ml of tetrahydrofuran and cooled in a -20° C. bath was added 10.0 ml of a 2.5 molar solution n-butyllithium in hexane. After stirring for 5 minutes a solution of 4.0 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide in 10 ml of tetrahydrofuran was added and the resulting solution stirred for 15 minutes and then cooled to -78° C. To this solution was added 2.0 ml of methyl formate and, after 5 minutes, 2 ml of acetic acid was added. The reaction mixture was partitioned between diethyl ether and water and the organic layer was dried over anhydrous magnesium sulfate. The resulting solution was filtered, evaporated in vacuo to give 3.9 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide. NMR and IR data were consistent with the structure.

reactant | diisopropylamine | 3.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 4.0 g | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C)C1=CC=C(C=C1)Cl)(F)F | C18H15ClF3N3O2
reactant | methyl formate | 2.0 ml | C(=O)OC | C2H4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 3.9 g | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C=O)C1=CC=C(C=C1)Cl)(F)F | C19H15ClF3N3O3
